US04467125
2-Nitro-3-Methyl Benzotrifluoride
2 gms of 3-methyl benzotrifluoride is dissolved in 5 mls of methylene chloride and added dropwise with stirring at -20° C. to -25° C. to 6 gms of 98% HNO3 dissolved in 10 ml methylene chloride. After addition, the reaction was allowed to finish by warming the mixture to 15° C. After treatment with ice and water followed by sodium bicarbonate wash, near quantitative yield was recovered. Isomer distribution was as follows:

reactant | 3-methyl benzotrifluoride | 2 gms | CC=1C=C(C=CC1)C(F)(F)F | C8H7F3
reactant | HNO3 | 6 gms | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 mls | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-Nitro-3-Methyl Benzotrifluoride | quantitative yield | [N+](=O)([O-])C1=C(C=CC=C1C)C(F)(F)F | C8H6F3NO2
